US07365085B2
a) 2-thiophen-2-yl-propionaldehyde
To a solution of diethylisocyanomethylphosphonate in diethyl ether (40 ml) was added butyl lithium (6.9 ml, 1.6M in hexane) dropwise at −60° C. After the reaction mixture was stirred at −60° C. for additional 15 min a solution of 2-acetylthiophene (1.26 g, 10 mmol) in diethyl ether (10 ml) was added at the same temperature. The reaction mixture was warmed up to 0° C. and was stirred for 1.5 h. Concentrated HCl (15 ml) was added at 0° C. and then ice bath was removed. After the resulting mixture was stirred at room temperature overnight it was poured to cold water (20 ml). The organic layer was washed with water, sat. sodium bicarbonate, brine, dried over sodium sulfate and concentrated. The crude product was used in the next step without purification.

reactant | diethylisocyanomethylphosphonate | C(C)OP(OCC)(=O)C[N+]#[C-] | C6H12NO3P
reactant | butyl lithium | 1.6M, 6.9 ml | C(CCC)[Li]
reactant | 2-acetylthiophene | 10 mmol, 1.26 g | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | HCl | 15 ml | Cl | ClH
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 2-thiophen-2-yl-propionaldehyde | S1C(=CC=C1)C(C=O)C | C7H8OS
